US06329408B1
Ethyl 4-Bromobenzoylacetate
Sodium hydride (5.2 g, 0.21 mol) was suspended in dry diethyl ether and cooled to 0° C. Diethyl carbonate (17.7 g, 0.15 mol) was added and the contents were stirred for ten minutes, at which time dropwise addition of p-bromoacetophenone (19.9 g, 0.1 mol) in diethyl ether (50 mL) and ethanol (0.2 mL) was initiated. Addition was continued for twenty minutes; the solution was refluxed for three hours, cooled to room temperature and poured onto cold 10% aqueous hydrochloric acid (250 mL). The aqueous solution was extracted twice with diethyl ether (750 mL) and the combined extracts were washed successively with water (250 mL), brine (250 mL) and dried (MgSO4). The solvent was removed in vacuo and the residue was purified on silica gel, eluting with hexane/ethyl acetate (4/1), to afford 20.2 g (74%) of the title compound as an oil. 1HNMR (60MHz, CDCl3): δ1.2 (t,3H), 3.9 (s, 2H), 4.1 (q, 2H), 7.55 (d, J=7 Hz, 2H), 7.75 (d, J=2 Hz, 2H).

reactant | Sodium hydride | 0.21 mol, 5.2 g | [H-].[Na+]
reactant | Diethyl carbonate | 0.15 mol, 17.7 g | C(OCC)(OCC)=O | C5H10O3
reactant | p-bromoacetophenone | 0.1 mol, 19.9 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | hydrochloric acid | 250 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
product | Ethyl 4-Bromobenzoylacetate | 20.2 g, 74% | BrC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11BrO3
